US04371536
1.13 g of 2-(4-chloroindol-3-ylmethyl)-2-aminomalonic acid diethylester hydrochloric and 80 mg of paraformaldehyde are boiled at reflux for about 15 minutes in 30 ml of benzene until the Ninhydrin reaction has disappeared. After cooling, the crystalline precipitate is suction-filtered and recrystallized from benzene. 1.05 g of 5-chloro-1,2,3,4-tetrahydro-β-carbolin-3,3-dicarboxylic acid ethyl ester hydrochloride of melting point 157° C. is obtained.

reactant | 2-(4-chloroindol-3-ylmethyl)-2-aminomalonic acid diethylester | 1.13 g | C(C)OC(C(C(=O)OCC)(N)CC1=CNC2=CC=CC(=C12)Cl)=O | C16H19ClN2O4
reactant | paraformaldehyde | 80 mg | C=O | CH2O
reactant | Ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 5-chloro-1,2,3,4-tetrahydro-β-carbolin-3,3-dicarboxylic acid ethyl ester hydrochloride | 1.05 g | Cl.C(C)OC(=O)C1(NCC=2NC3=CC=CC(=C3C2C1)Cl)C(=O)O | InChI=1S/C15H15ClN2O4.ClH/c1-2-22-14(21)15(13(19)20)6-8-11(7-17-15)18-10-5-3-4-9(16)12(8)10;/h3-5,17-18H,2,6-7H2,1H3,(H,19,20);1H
